US05547958
N-(2-methyl-6-n-propyl-8alpha-ergolinyl)-formamide
from 9,10-didehydro-2,3beta-dihydro-2-ethyl-6-n-propyl-8alpha-ergolinylamine the N-(9,10-didehydro-2,3beta-dihydro-2-ethyl-6-n-propyl-8alpha-ergolinyl)-formamide, yield 71%

reactant | 9,10-didehydro-2,3beta-dihydro-2-ethyl-6-n-propyl-8alpha-ergolinylamine | C(C)C1[C@H]2C[C@H]3N(C[C@H](C=C3C=3C=CC=C(N1)C32)N)CCC | C19H27N3
reactant | N-(9,10-didehydro-2,3beta-dihydro-2-ethyl-6-n-propyl-8alpha-ergolinyl)-formamide | C(C)C1[C@H]2C[C@H]3N(C[C@H](C=C3C=3C=CC=C(N1)C32)NC=O)CCC | C20H27N3O
product | N-(2-methyl-6-n-propyl-8alpha-ergolinyl)-formamide | CC1=C2C[C@H]3N(C[C@H](C[C@@H]3C=3C=CC=C(N1)C32)NC=O)CCC | C19H25N3O
